US05380731
Step c: 1-[(4-Cyanobutyl)-1H-benzimidazol-2-yl][1-(1-carbomethoxy methoxy ethyl)-4-piperidinyl]methanone
Mix 1-[(4-cyanobutyl)-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone (4.0 g, 12.91 mmol), carbomethoxy methoxy ethylbromide (3.0 g, 15.3 mmol), potassium carbonate (5.29 g, 38.25 mmol) and dimethylformamide (100 mL). Stir and heat and at 90° C. overnight. Allow to cool to room temperature, dilute with water and extract with ethyl acetate (2×). Wash the combined organic phases with water (3×), then brine and dry (MgSO4). Evaporate the solvent in vacuo and purify by chromatography to give the title compound.

reactant | 1-[(4-cyanobutyl)-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone | 12.91 mmol, 4.0 g | C(#N)CCCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C18H22N4O
reactant | carbomethoxy methoxy ethylbromide | 15.3 mmol, 3.0 g | C(=O)(OC)COCCBr | C5H9BrO3
reactant | potassium carbonate | 38.25 mmol, 5.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[(4-Cyanobutyl)-1H-benzimidazol-2-yl][1-(1-carbomethoxy methoxy ethyl)-4-piperidinyl]methanone | C(#N)CCCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)C(C)OCC(=O)OC | C23H30N4O4
